US07482366B2
To a solution of 4,6-dichloro-2-methylsulfanylpyrimidine (500 mg, 2.56 mmol) in anhydrous DMF (6 mL) was added sodium ethoxide (174 mg, 2.56 mmol). The reaction mixture was stirred at 70° C. for overnight. The resulting mixture was poured into 30 mL of water and was extracted with diethyl ether (20 mL×3) three times. The ether layer was separated and dried with anhydrous MgSO4 and concentrated in vacuo to give crude product 4-chloro-6-ethoxy-2-methylsulfanylpyrimidine (525 mg). 1H-NMR (CDCl3): δ 6.39 (s, 1 H), 4.43 (q, J=7.1 Hz, 2 H), 2.54 (s, 3 H), 1.38 (t, J=7.1 H, 3 H).

reactant | 4,6-dichloro-2-methylsulfanylpyrimidine | 2.56 mmol, 500 mg | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | sodium ethoxide | 2.56 mmol, 174 mg | [O-]CC.[Na+]
reactant | water | 30 mL | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-chloro-6-ethoxy-2-methylsulfanylpyrimidine | 525 mg | ClC1=NC(=NC(=C1)OCC)SC | C7H9ClN2OS
